US07384967B2
2-{4-[3-(5-Chloro-thiazol-2-yl)-ureido]-3-cyclopentanecarbonyl-phenyl}-N-(2-methanesulfonyl-ethyl)-acetamide (180 mg, 70%) was prepared from {4-[3-(5-chloro-thiazol-2-yl)-ureido]-3-cyclopentanecarbonyl-phenyl)-acetic acid (204 mg, 0.5 mmol) and 2-methanesulfonyl-ethylamine (62 mg, 0.5 mmol) following the general procedure K.

reactant | {4-[3-(5-chloro-thiazol-2-yl)-ureido]-3-cyclopentanecarbonyl-phenyl)-acetic acid | 0.5 mmol, 204 mg | ClC1=CN=C(S1)NC(NC1=C(C=C(C=C1)CC(=O)O)C(=O)C1CCCC1)=O | C18H18ClN3O4S
reactant | 2-methanesulfonyl-ethylamine | 0.5 mmol, 62 mg | CS(=O)(=O)CCN | C3H9NO2S
product | 2-{4-[3-(5-Chloro-thiazol-2-yl)-ureido]-3-cyclopentanecarbonyl-phenyl}-N-(2-methanesulfonyl-ethyl)-acetamide | 180 mg, 70% | ClC1=CN=C(S1)NC(NC1=C(C=C(C=C1)CC(=O)NCCS(=O)(=O)C)C(=O)C1CCCC1)=O | C21H25ClN4O5S2
